US07459554B2
cis-1-[3-(Benzyloxy)phenyl]-3-[3-(dimethylamino) cyclobutyl]imidazo[1,5-a]pyrazin-8-amine:
cis-[3-(8-Chloro-1-phenyl-imidazo[1,5-a]pyrazin-3-yl)-cyclobutyl]-dimethyl-amine: An DCE solution of 3-{1-[3-(benzyloxy)phenyl]-8-chloroimidazo[1,5-a]pyrazin-3-yl}cyclobutanone was charged with dimethylamine (0.37 mmol, 0.19 mL) and then catalytic amount of AcOH (7 μL). The mixture was stirred at rt for 30 min before resin-bound triacetoxyborohydride (0.5 mmol, 240 mg) was added. Reaction mixture was stirred at rt for 16 h before the solution was filtered through a Buchner funnel to remove the resin. The filtrate was concentrated and the obtained oil was dissolved in DCM (15 mL), washed with saturated NaHCO3 solution (2×15 mL) and brine (2×15 mL). The solvent was dried over sodium sulfate and concentrated under reduced pressure. The title compound was obtained as a yellow greasy oil; MS (ES+): m/z 433 (100) [MH+].

reactant | cis-[3-(8-Chloro-1-phenyl-imidazo[1,5-a]pyrazin-3-yl)-cyclobutyl]-dimethyl-amine | ClC=1C=2N(C=CN1)C(=NC2C2=CC=CC=C2)[C@H]2C[C@H](C2)N(C)C | C18H19ClN4
reactant | 3-{1-[3-(benzyloxy)phenyl]-8-chloroimidazo[1,5-a]pyrazin-3-yl}cyclobutanone | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)C2CC(C2)=O | C23H18ClN3O2
reactant | dimethylamine | 0.37 mmol, 0.19 mL | CNC | C2H7N
reactant | triacetoxyborohydride | 0.5 mmol, 240 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | AcOH | 7 μL | CC(=O)O | C2H4O2
solvent | DCE | ClCCCl | C2H4Cl2
product | cis-1-[3-(Benzyloxy)phenyl]-3-[3-(dimethylamino) cyclobutyl]imidazo[1,5-a]pyrazin-8-amine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)N)[C@@H]2C[C@@H](C2)N(C)C | C25H27N5O
